US06855711B1
Synthesis of 5-piperidinomethyl-8-hydroxyquinoline (12)
Piperidine (2 ml; 20.26 mmol) was added to a solution of 5-chloromethyl-8-hydroxyquinoline (1.87 g; 8.13 mmol) in CHCl3 (50 ml) at 5° C. The mixture was stirred for two days at room temperature. Then the mixture was evaporated under vacuum to dryness. The residue was dissolved in CHCl3, washed with 5% NaHCO3 (2×50 ml), followed by brine (50 ml), dried over Na2SO4 and evaporated to dryness. The residue was crystallized from hexane to give 1.0 g of the title product (50%). M.p. 96° C. TLC (CHCl3; MeOH; NH3=8:2:0.5). Rf=0.63.

reactant | Piperidine | 20.26 mmol, 2 ml | N1CCCCC1 | C5H11N
reactant | 5-chloromethyl-8-hydroxyquinoline | 8.13 mmol, 1.87 g | ClCC1=C2C=CC=NC2=C(C=C1)O | C10H8ClNO
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-piperidinomethyl-8-hydroxyquinoline | 1.0 g, 50% | N1(CCCCC1)CC1=C2C=CC=NC2=C(C=C1)O | C15H18N2O
